US07897619B2
(2S)-4-(4-(1H-Indazol-5-yl)-1H-1,2,3-triazol-1-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine:
5-Ethynyl-1H-indazole (50 mg, 0.35 mmol) and (S)-tert-butyl 4-azido-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (143 mg, 0.35 mmol) were dissolved in 2 mL tBuOH/H2O (1/1) and CuSO4.5H2O (1.8 mg, 0.007 mmol) and sodium ascorbate (14 mg, 0.07 mmol) were added. The reaction was stirred for 3 days at room temperature and 10 mL DCM was added and the phases were separated. The aqueous phase was extracted with 50 mL DCM (3×50 mL) and the combined organic phases were dried over MgSO4 and evaporated. The BOC protected intermediate was purified on preparative TLC (6% MeOH in DCM) and treated with 4 mL 30% TFA in DCM for 2 hours. Toluene (30 mL) was added and the mixture was evaporated. The residue was redissolved in 2 mL MeOH, 3 drops of NaOH (5 M, aqueous) was added, and the solution was applied onto a preparative TLC plate for purification (10% MeOH in DCM). 4 mg of the title compound was obtained (0.01 mmol) as a colorless film. LCMS (API-ES) m/z (%): 401.0 (100%, M++H); 1H NMR (300 MHz, CD3OD) δ ppm 8.25-8.30 (m, 1H), 8.17-8.22 (m, 1H), 8.06-8.11 (m, 1H), 7.85 (dd, J=8.76, 1.60 Hz, 1H), 7.54-7.64 (m, 3H), 7.39 (d, J=8.10 Hz, 2H), 4.61 (t, J=7.35 Hz, 2H), 2.98-3.11 (m, 1H), 2.85-2.97 (m, 1H), 2.72-2.83 (m, 1H), 2.06-2.22 (m, 1H), 1.87-2.05 (m, 1H).

reactant | 5-Ethynyl-1H-indazole | 0.35 mmol, 50 mg | C(#C)C=1C=C2C=NNC2=CC1 | C9H6N2
reactant | (S)-tert-butyl 4-azido-1-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 0.35 mmol, 143 mg | N(=[N+]=[N-])CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H21F3N4O2
reactant | sodium ascorbate | 0.07 mmol, 14 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
reactant | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | tBuOH H2O | 2 mL | CC(C)(C)O.O
product | (2S)-4-(4-(1H-Indazol-5-yl)-1H-1,2,3-triazol-1-yl)-1-(4-(trifluoromethyl)phenyl)butan-2-amine | 4 mg | N1N=CC2=CC(=CC=C12)C=1N=NN(C1)CC[C@H](CC1=CC=C(C=C1)C(F)(F)F)N | C20H19F3N6
